US07691836B2
Preparation of (11β,16α,17β)-17-cyclopropylcarbonyl-11-[4-(6-fluoropyridin-3-yl)phenyl]-16-methylestra-4,9-dien-3-one
(11β,16α,17β)-11-(4-Bromophenyl)-17-cyclopropylcarbonyl-16-methylestra-4,9-dien-3-one and 6-fluoro-3-pyridinylboronic acid were used as described in example 1 step h. Purification by LCMS followed by lyophilisation gave the product (65% yield). 1H NMR (400 MHz, CDCl3): δ 0.34 (s, 3H), 0.80-2.85 (m, 24H), 4.45 (d, J=7 Hz, 1H), 5.80 (s, 1H), 7.00 (dd, J=8 and 3 Hz, 1H), 7.25-7.29 (m, 2H), 7.44-7.48 (m, 2H), 7.95 (dt, J=8 and 3 Hz, 1H), 8.41 (d, J=3 Hz, 1H).

reactant | (11β,16α,17β)-11-(4-Bromophenyl)-17-cyclopropylcarbonyl-16-methylestra-4,9-dien-3-one | BrC1=CC=C(C=C1)[C@@H]1C2=C3CCC(C=C3CC[C@H]2[C@@H]2C[C@H]([C@@H]([C@@]2(C)C1)C(=O)C1CC1)C)=O | C29H33BrO2
reactant | 6-fluoro-3-pyridinylboronic acid | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
product | (11β,16α,17β)-17-cyclopropylcarbonyl-11-[4-(6-fluoropyridin-3-yl)phenyl]-16-methylestra-4,9-dien-3-one | 65% yield | C1(CC1)C(=O)[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=C2)C=2C=NC(=CC2)F)=O | C34H36FNO2
